US05654431
3-(2-Aminoethyl)-5-[4-(3-hydroxyisoindolin-1-on-2-yl)butyloxy]-1H-indole
To a solution of 3-(2-aminoethyl)-5-(4-phthalimidobutyloxy)-1H-indole hydrochloride (0.057 g, 0.14 mmol) in methanol (10 mL) was added sodium borohydride (0.057 g, 1.36 mmol) and the resulting mixture was stirred at room temperature for 4 hours. The solution was then poured onto a silica gel column and the product eluted with methanol/ammonium hydroxide (19:1) to give the title compound as a syrup (0.052 g, 100%).

reactant | 3-(2-aminoethyl)-5-(4-phthalimidobutyloxy)-1H-indole hydrochloride | 0.14 mmol, 0.057 g | Cl.NCCC1=CNC2=CC=C(C=C12)OCCCCN1C(C=2C(C1=O)=CC=CC2)=O
reactant | sodium borohydride | 1.36 mmol, 0.057 g | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-(2-Aminoethyl)-5-[4-(3-hydroxyisoindolin-1-on-2-yl)butyloxy]-1H-indole | 0.052 g, 100% | NCCC1=CNC2=CC=C(C=C12)OCCCCN1C(C2=CC=CC=C2C1O)=O | C22H25N3O3
